US07547691B2
(B). Preparation of 2-chloro-4-(7-chlorobenzo[b]thiophen-2-yl)pyrimidine.
A solution of 7-chlorobenzo[b]thiophene (10.0 g, 59.3 mmol) in THF (100 mL) is cooled to −70° C. and triisopropyl borate (12.3 g, 65.2 mmol) is added. n-Butyl lithium (n-BuLi) (40.8 mL, 40.8 mmol, 1.6 M in hexane) is added dropwise via syringe over 40 minutes. After stirring 10 minutes at −75° C., the cold bath is removed and the mixture is allowed to warm to room temperature over 30 minutes. After 3 hours, to the mixture is added 2,4-dichloropyrimidine (8.83 g, 59.3 mmol), 2M Na2CO3 (60 mL, 120 mmol), 1,1′-bis(diphenylphosphino)ferrocene (1.64 g, 2.96 mmol) and palladium acetate (666 mg, 2.96 mmol) and the mixture is heated to reflux for 18 hours. The cooled mixture is concentrated under reduced pressure, extracted from water with 10% MeOH/CHCl3 (2×200 mL) and concentrated under reduced pressure. The crude material is subjected to chromatography on silica gel eluting with dichloromethane in hexanes 0-100%, to provide the title compound as a light yellow solid (6.95 g, 42% yield).

reactant | 7-chlorobenzo[b]thiophene | 59.3 mmol, 10.0 g | ClC1=CC=CC2=C1SC=C2 | C8H5ClS
reactant | triisopropyl borate | 65.2 mmol, 12.3 g | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
reactant | n-Butyl lithium | 40.8 mmol, 1.6 M, 40.8 mL | C(CCC)[Li]
reactant | 2,4-dichloropyrimidine | 59.3 mmol, 8.83 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | Na2CO3 | 120 mmol, 2M, 60 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene | 2.96 mmol, 1.64 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | palladium acetate | 2.96 mmol, 666 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 2-chloro-4-(7-chlorobenzo[b]thiophen-2-yl)pyrimidine | 6.95 g, 42% yield | ClC1=NC=CC(=N1)C1=CC2=C(S1)C(=CC=C2)Cl | C12H6Cl2N2S
